US07772244B2
(R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
To a solution of (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid (500 mg, 1.05 mmol), diisopropylethylamine (0.37 mL, 2.11 mmol), and 4-piperidinopiperidine (355 mg, 2.0 equiv) in dimethylformamide (4 mL) and dichloromethane (4 mL) at 0° C. was added PyBOP® (576 mg, 1.11 mmol). The reaction was stirred at 0° C. for 4 h, was concentrated, and purified by column chromatography (95:5:1 to 93:7:1 dichloromethane/methanol/triethylamine). The resulting residue was dissolved in 5% methanol/dichloromethane and passed through a basic alumina column to give 600 mg (88%) as a white powder. Mass spec.: 625.56 (MH)+.

reactant | (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | 1.05 mmol, 500 mg | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C26H26N4O5
reactant | diisopropylethylamine | 2.11 mmol, 0.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-piperidinopiperidine | 355 mg, 2.0 equiv | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (R)-3-(7-Methyl-1H-indazol-5-yl)-1-oxo-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-2-yl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCCCC1)=O)CC=1C=C2C=NNC2=C(C1)C | C36H44N6O4
